US06136843
2-(Dimethylamino)ethyl3-[1-(1,3-benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl]-1-methyl-1H-6-indolecarboxylate
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (128 mg, 0.67 mmol) was added to a stirred solution of 3-{1-(1,3-benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolecarboxylic acid (the product of Example 17, 300 mg, 0.56 mmol), N,N-dimethylaminopyridine (75 mg, 0.61 mmol) and dimethylaminoethanol (0.17 ml, 1.67 mmol) in a mixture of CH2Cl2 (9 ml) and DMF (0.5 ml) at room temperature under a nitrogen atmosphere. After 12 h a fine white precipitate had formed. The product was removed by filtration and washed with cold methanol.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.67 mmol, 128 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-(1,3-benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolecarboxylic acid | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=C(C=C(C=C2)C)OC)C2=CN(C1=CC(=CC=C21)C(=O)O)C | C27H24N2O8S
reactant | dimethylaminoethanol | 1.67 mmol, 0.17 ml | CN(C)CCO | C4H11NO
solvent | CH2Cl2 | 9 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 2-(Dimethylamino)ethyl3-[1-(1,3-benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl]-1-methyl-1H-6-indolecarboxylate | CN(CCOC(=O)C1=CC=C2C(=CN(C2=C1)C)C(C(=O)NS(=O)(=O)C1=C(C=C(C=C1)C)OC)C1=CC2=C(OCO2)C=C1)C | C31H33N3O8S
